### PR TITLE
feat(Algebra/StalkIso): prove BijectiveOnStalks for local isos and properties

### PR DESCRIPTION
**Pull request by chrisflav**
Proves three results about `RingHom.BijectiveOnStalks`:

- `RingHom.IsLocalIso.bijectiveOnStalks`: local isomorphisms are bijective on stalks.
- `RingHom.BijectiveOnStalks.comp`: stability under composition.
- `RingHom.BijectiveOnStalks.bijective_of_bijective`: a ring homomorphism bijective on stalks that also induces a bijection on prime spectra is itself bijective.

### CODE REVIEW

**Comment by chrisflav** [comment]
orchestra address review

File: Proetale/Algebra/StalkIso.lean [hunk 1]
```diff
@@ -27,18 +29,180 @@ variable {R S : Type*} [CommRing R] [CommRing S]
...
+      apply Module.flat_of_isLocalized_maximal S S (fun P ↦ Localization.AtPrime P)
+        (fun P ↦ Algebra.linearMap S _)
+      intro P _
+      letI := (Localization.localRingHom (Ideal.comap f P) P f rfl).toAlgebra
+      have : IsScalarTower R (Localization.AtPrime (Ideal.comap f P)) (Localization.AtPrime P) :=
+        .of_algebraMap_eq fun x ↦ (Localization.localRingHom_to_map _ _ _ rfl x).symm
+      have : Module.Flat (Localization.AtPrime (Ideal.comap f P)) (Localization.AtPrime P) :=
+        Module.Flat.of_linearEquiv
+          (LinearEquiv.ofBijective (Algebra.linearMap _ _) (hf P)).symm
+      exact Module.Flat.trans R (Localization.AtPrime <| Ideal.comap f P) (Localization.AtPrime P)
```
Comment (chrisflav) [inline Proetale/Algebra/StalkIso.lean]: Make this part a separate lemma saying: If a ring homomorphism is flat on stalks it is flat.

**Review by jjdishere — COMMENTED** [review]
## Code Review

Overall this is solid work — the three main results are well-structured with good separation of general lemmas into `Proetale/Mathlib/`. A few style nits below.

**Comment by chrisflav** [comment]
orchestra address review: Merge latest upstream/master into this branch and fix the build errors.

File: Proetale/Mathlib/RingTheory/Spectrum/Prime/RingHom.lean [hunk 2]
```diff
@@ -0,0 +1,92 @@
...
+      (hpq' ▸ Ideal.comap_mono hpm)).symm
+  subst hmcomap
+  haveI := hm
+  apply hf m
+  simp only [MaximalSpectrum.toPiLocalization_apply_apply,
+    Localization.localRingHom_to_map, hr]
+
+/-- A ring homomorphism `f : R →+* S` is flat if the induced maps on localizations at each
+maximal ideal are flat. -/
+lemma RingHom.flat_of_localizations_flat {f : R →+* S}
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/Spectrum/Prime/RingHom.lean]:
```suggestion
lemma RingHom.flat_of_flat_localRingHom {f : R →+* S}
```

File: Proetale/Mathlib/RingTheory/Spectrum/Prime/RingHom.lean [hunk 3]
```diff
@@ -0,0 +1,92 @@
...
+- A ring homomorphism is surjective if and only if for every element and every maximal ideal,
+  there exists an element outside the maximal ideal whose product with the given element
+  is in the range.
+-/
+
+variable {R S : Type*} [CommRing R] [CommRing S]
+
+/-- A ring homomorphism is injective if all stalk maps at maximal ideals are injective and
+`PrimeSpectrum.comap f` is surjective. -/
+lemma RingHom.injective_of_injectiveOnStalks {f : R →+* S}
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/Spectrum/Prime/RingHom.lean]:
```suggestion
lemma RingHom.injective_of_localRingHom_injective {f : R →+* S}
```

File: Proetale/Mathlib/RingTheory/Spectrum/Prime/RingHom.lean [hunk 4]
```diff
@@ -0,0 +1,92 @@
...
+lemma RingHom.flat_of_localizations_flat {f : R →+* S}
+    (h : ∀ (p : Ideal S) [p.IsMaximal],
+        (Localization.localRingHom (p.comap f) p f rfl).Flat) :
+    f.Flat := by
+  algebraize [f]
+  rw [RingHom.Flat]
+  apply Module.flat_of_isLocalized_maximal S S (fun P ↦ Localization.AtPrime P)
+    (fun P ↦ Algebra.linearMap S _)
+  intro P hPmax
+  haveI : P.IsMaximal := hPmax
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/Spectrum/Prime/RingHom.lean]: Don't use `haveI` in proofs.

File: Proetale/Algebra/StalkIso.lean [hunk 5]
```diff
@@ -23,22 +24,171 @@ def RingHom.BijectiveOnStalks {R S : Type*} [CommRing R] [CommRing S] (f : R →
...
+  intro p hp
+  have hq : (p.comap g).IsPrime := Ideal.IsPrime.comap g
+  rw [Localization.localRingHom_comp
+    (I := p.comap (g.comp f)) (p.comap g) p f (Ideal.comap_comap f g) g rfl]
+  exact (hg p).comp (hf (p.comap g))
+
+/-- A ring homomorphism `f : R →+* S` is bijective on stalks if there exists a set of elements
+of `S` spanning the unit ideal such that for every such element, the composition of `f` with
+the localization map is bijective on stalks. -/
+lemma of_span_unit_ideal {f : R →+* S} (s : Set S)
```
Comment (chrisflav) [inline Proetale/Algebra/StalkIso.lean:67]: Add a new class `Algebra.BijectiveOnStalks` and redefine `RingHom.BijectiveOnStalks` in terms of it. Then prove this lemma and the other lemmas in this file first for `Algebra.BijectiveOnStalks`.
Setup `@[algebraize]` on `Algebra.BijectiveOnStalks` and use it to deduce the corresponding version for `RingHom`s.

**Comment by chrisflav** [comment]
orchestra address review

File: Proetale/Algebra/StalkIso.lean [hunk 6]
```diff
@@ -8,35 +8,55 @@ import Proetale.Mathlib.RingTheory.Spectrum.Prime.RingHom
...
+      (Localization.localRingHom (p.comap (algebraMap R S)) p (algebraMap R S) rfl)
+
 variable {R : Type u} {S : Type v} [CommRing R] [CommRing S]
 
+/-- A ring homomorphism `R →+* S` is bijective on stalks if `R_q →+* S_p` is bijective
+for every pair of primes `q = f⁻¹(p)`. -/
+@[algebraize Algebra.BijectiveOnStalks]
+def RingHom.BijectiveOnStalks (f : R →+* S) : Prop :=
+  letI := f.toAlgebra
+  Algebra.BijectiveOnStalks R S
```
Comment (chrisflav) [inline Proetale/Algebra/StalkIso.lean]: Define this one directly using `Function.Bijective` and add a lemma saying that they are equivalent. This lemma you can then tag with `algebraize`.

**Comment by chrisflav** [comment]
orchestra address review
